### PR TITLE
[Merged by Bors] - refactor(LinearAlgebra/QuadraticForm/Basic): Define the lift of the polar to Sym2

### PR DESCRIPTION
**Pull request by mans0954**
Given a function `f : M → N` (`M` and `N` additive commutative groups) `QuadraticMap.polar f : M → M → N` is always symmetric and so has a lift to `Sym2 M → N`, which is defined as `QuadraticMap.polarSym2` in this PR.

This definition allows the statements of `QuadraticMap.map_sum` and `QuadraticMap.map_sum'` to be given in a more pleasing form.

The intention is to use `polarSym2` more extensively in #18578.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mans0954** [comment]
CC: @eric-wieser @YaelDillies

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 1]
```diff
@@ -128,6 +128,12 @@ theorem polar_comp {F : Type*} [CommRing S] [FunLike F N S] [AddMonoidHomClass F
     polar (g ∘ f) x y = g (polar f x y) := by
   simp only [polar, Pi.smul_apply, Function.comp_apply, map_sub]
 
+/--
+Lift the polar to Sym2
+-/
+def polar_sym2 (f : M → N) : Sym2 M → N :=
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:134]:
```suggestion
def polarSym2 (f : M → N) : Sym2 M → N :=
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 2]
```diff
@@ -128,6 +128,12 @@ theorem polar_comp {F : Type*} [CommRing S] [FunLike F N S] [AddMonoidHomClass F
     polar (g ∘ f) x y = g (polar f x y) := by
   simp only [polar, Pi.smul_apply, Function.comp_apply, map_sub]
 
+/--
+Lift the polar to Sym2
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:132]:
```suggestion
Lift the polar to `Sym2`
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 3]
```diff
@@ -328,32 +334,30 @@ theorem choose_exists_companion : Q.exists_companion.choose = polarBilin Q :=
       add_sub_cancel_left]
 
 protected theorem map_sum {ι} [DecidableEq ι] (Q : QuadraticMap R M N) (s : Finset ι) (f : ι → M) :
-    Q (∑ i ∈ s, f i) = ∑ i ∈ s, Q (f i) +
-      ∑ ij ∈ s.sym2 with ¬ ij.IsDiag,
-        Sym2.lift ⟨fun i j => polar Q (f i) (f j), fun _ _ => polar_comm _ _ _⟩ ij := by
+    Q (∑ i ∈ s, f i) = ∑ i ∈ s, Q (f i)
+      + ∑ ij ∈ s.sym2 with ¬ ij.IsDiag, ((polar_sym2 Q) ∘ Sym2.map f) ij := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:338]: Any reason you're not writing this as
```suggestion
      + ∑ ij ∈ s.sym2 with ¬ ij.IsDiag, polar_sym2 Q (ij.map f) := by
```
?

**Comment by YaelDillies** [comment]
> Should `polar` and friends be in the `Function` namespace rather than the `QuadraticMap` namespace?

No strong opinion. Do people use the polar in cases where it's not bilinear?

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:338]: I tried `((polar_sym2 Q) ∘ (ij.map f))` which was wrong.

File: Mathlib/Data/Sym/Sym2.lean [hunk 4]
```diff
@@ -268,6 +268,16 @@ def _root_.Function.Embedding.sym2Map (f : α ↪ β) : Sym2 α ↪ Sym2 β wher
   toFun := map f
   inj' := map.injective f.injective
 
+lemma lift_comp_map {g : γ → α} (f : {f : α → α → β // ∀ a₁ a₂, f a₁ a₂ = f a₂ a₁}) :
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2.lean:271]: This lemma is backwards, since in general things should be named after their LHS. Can you flip the equality here and before?

File: Mathlib/Data/Sym/Sym2.lean [hunk 5]
```diff
@@ -268,6 +268,16 @@ def _root_.Function.Embedding.sym2Map (f : α ↪ β) : Sym2 α ↪ Sym2 β wher
...
+    lift ⟨fun (c₁ c₂ : γ) => f.val (g c₁) (g c₂), fun _ _ => f.prop _ _⟩ = lift f ∘ (map g) :=
+  lift.apply_eq_iff_eq_symm_apply.mpr rfl
+
+lemma lift_comp_map_apply {g : γ → α} (f : {f : α → α → β // ∀ a₁ a₂, f a₁ a₂ = f a₂ a₁})
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2.lean:275]: Perhaps  `lift_map` or `lift_apply_map`, since there's no `comp` in the statement.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 6]
```diff
@@ -128,6 +128,12 @@ theorem polar_comp {F : Type*} [CommRing S] [FunLike F N S] [AddMonoidHomClass F
     polar (g ∘ f) x y = g (polar f x y) := by
   simp only [polar, Pi.smul_apply, Function.comp_apply, map_sub]
 
+/--
+Lift the polar to `Sym2`
+-/
+def polarSym2 (f : M → N) : Sym2 M → N :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:134]: Please add a simp lemma about this and `Sym2.mk`

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 7]
```diff
@@ -128,6 +128,12 @@ theorem polar_comp {F : Type*} [CommRing S] [FunLike F N S] [AddMonoidHomClass F
...
+  Sym2.lift ⟨fun m₁ m₂ => (polar f) m₁ m₂, fun i j => by simp only [polar_comm]⟩
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:135]: I would guess
```suggestion
  Sym2.lift ⟨polar f, polar_comm _⟩
```
or similar works here

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 8]
```diff
@@ -128,6 +128,15 @@ theorem polar_comp {F : Type*} [CommRing S] [FunLike F N S] [AddMonoidHomClass F
...
   simp only [polar, Pi.smul_apply, Function.comp_apply, map_sub]
 
+/--
+Lift the polar to `Sym2`
+-/
+def polarSym2 (f : M → N) : Sym2 M → N :=
+  Sym2.lift ⟨polar f, polar_comm _⟩
+
+@[simp]
+lemma polarSym2_Sym2_mk (f : M → N) (x y : M ) : polarSym2 f (Sym2.mk (x, y)) = polar f x y := rfl
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:138]:
```suggestion
lemma polarSym2_sym2Mk (f : M → N) (x y : M ) : polarSym2 f (Sym2.mk (x, y)) = polar f x y := rfl
```

File: Mathlib/Data/Sym/Sym2.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/Data/Sym/Sym2.lean:271]: Done, and in `lift_apply_map`.

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 9]
```diff
@@ -128,6 +128,15 @@ theorem polar_comp {F : Type*} [CommRing S] [FunLike F N S] [AddMonoidHomClass F
...
   simp only [polar, Pi.smul_apply, Function.comp_apply, map_sub]
 
+/--
+Lift the polar to `Sym2`
+-/
+def polarSym2 (f : M → N) : Sym2 M → N :=
+  Sym2.lift ⟨polar f, polar_comm _⟩
+
+@[simp]
+lemma polarSym2_sym2Mk (f : M → N) (x y : M ) : polarSym2 f (Sym2.mk (x, y)) = polar f x y := rfl
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:138]: optional:
```suggestion
lemma polarSym2_sym2Mk (f : M → N) (x y : M ) : polarSym2 f (.mk (x, y)) = polar f x y := rfl
```

File: Mathlib/Data/Sym/Sym2.lean [hunk 10]
```diff
@@ -268,6 +268,14 @@ def _root_.Function.Embedding.sym2Map (f : α ↪ β) : Sym2 α ↪ Sym2 β wher
   toFun := map f
   inj' := map.injective f.injective
 
+lemma lift_comp_map {g : γ → α} (f : {f : α → α → β // ∀ a₁ a₂, f a₁ a₂ = f a₂ a₁}) :
+    lift f ∘ (map g) = lift ⟨fun (c₁ c₂ : γ) => f.val (g c₁) (g c₂), fun _ _ => f.prop _ _⟩ :=
```
Comment (YaelDillies) [inline Mathlib/Data/Sym/Sym2.lean:272]:
```suggestion
    lift f ∘ map g = lift ⟨fun (c₁ c₂ : γ) => f.val (g c₁) (g c₂), fun _ _ => f.prop _ _⟩ :=
```

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 11]
```diff
@@ -328,32 +337,30 @@ theorem choose_exists_companion : Q.exists_companion.choose = polarBilin Q :=
...
     rw [add_comm]
     congr! with i hi
     rw [if_pos (ne_of_mem_of_not_mem hi ha).symm]
 
 protected theorem map_sum' {ι} (Q : QuadraticMap R M N) (s : Finset ι) (f : ι → M) :
-    Q (∑ i ∈ s, f i) =
-      ∑ ij ∈ s.sym2,
-        Sym2.lift ⟨fun i j => polar Q (f i) (f j), fun _ _ => polar_comm _ _ _⟩ ij
-      - ∑ i ∈ s, Q (f i) := by
+    Q (∑ i ∈ s, f i) = ∑ ij ∈ s.sym2, (polarSym2 Q (ij.map f))  - ∑ i ∈ s, Q (f i) := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:356]:
```suggestion
    Q (∑ i ∈ s, f i) = ∑ ij ∈ s.sym2, polarSym2 Q (ij.map f) - ∑ i ∈ s, Q (f i) := by
```

**Review by YaelDillies — APPROVED** [review]
modulo Eric's comments

**Comment by eric-wieser** [comment]
bors merge

Thanks!

**Comment by mans0954** [comment]
@eric-wieser the build/merge seems to have failed for some reason. Perhaps you could please try again?

**Review by eric-wieser — APPROVED** [review]
bors merge

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/QuadraticForm/Basic.lean]: I guess it matched `linearCombination R ((polarSym2 Q) ∘ Sym2.map g)` in #18578.
